US05047557
1.5 g of tert-butyl 1,1,3,3-tetramethyl-1,3-disilaazolidine-N-acetate in 30 ml of THF are added dropwise at -78° C. to a solution of lithium cyclohexylisopropylamide prepared analogously to Example 23 from 0.93 g of cyclohexylisopropylamine, 30 ml of THF and 3.8 ml of butyllithium (1.6M in hexane). After stirring for 1 hour at -78° C., 105 ml of a 0.063M solution of [(4R,5R)-2,2-dimethyl-1,3-dioxolane-4,5-bis-(diphenylmethoxy)cyclopentadienyltitanium chloride (according to Example 2a) in diethyl ether are added dropwise. The solution is stirred for 21 hours at -78° C. and is then added via a steel cannula to a solution cooled to -78° C., of 0.47 g of butyraldehyde in 10 ml of THF. After stirring for 23 hours at -78° C., 2.4 ml of acetic acid are added, the mixture is stirred for 15 minutes, 12 ml of water are added and the mixture is warmed to room temperature, stirred for 2 hours and evaporated under mild conditions. The residue is taken up in 0.1M HCl and the solution is extracted three times with diethyl ether. The organic phases are washed twice with 0.1N HCl. The pH of the combined aqueous phases is adjusted to 4 with 2N NaOH, the mixture is evaporated to a residual volume of about 50 ml, and 40 ml of dioxane, 3.36 g of NaHCO3 and 2.39 g of di-tert-butyl dicarbonate are added to the residue. After being stirred for 18 hours the reaction mixture is diluted with diethyl ether and washed twice with water and saturated sodium chloride solution; the aqueous phases are extracted twice with diethyl ether. The organic extracts are dried (Na2SO4) and evaporated: 4.37 g of crude product. A sample (5 mg) of this is heated in 0.3 ml of anhydrous 2N HCl in ethanol for 2 hours at 100° and the mixture is evaporated, reacted for 2 hours with 0.2 ml of trifluoroacetic anhydride in 0.3 ml of methylene chloride and analysed by capillary gas chromatography (Chirasil-L-Val, 90°-180° C./2° C. per minute). According to this, the sample consists of 97.1% of the (2S,3R)-enantiomer (retention time 11.8 minutes) and 2.9% of the (2R,3S)-enantiomer (retention time 10.9 minutes). Chromatographing the remainder of the residue (silica gel; 1:5 ethyl acetate/hexane) affords 1.03 g of tert-butyl (2S,3R)-tert-butoxycarbonylamino-3-hydroxyhexanoate in the form of an oil ([α]D =-10.4°; c=1.3 in ethanol).

reactant | tert-butyl 1,1,3,3-tetramethyl-1,3-disilaazolidine-N-acetate | 1.5 g | C[Si]1(N([Si](CC1)(C)C)CC(=O)OC(C)(C)C)C | C12H27NO2Si2
reactant | lithium cyclohexylisopropylamide | C1(CCCCC1)[N-]C(C)C.[Li+]
reactant | cyclohexylisopropylamine | 0.93 g | C1(CCCCC1)NC(C)C | C9H19N
reactant | butyllithium | 1.6M, 3.8 ml | C(CCC)[Li]
reactant | butyraldehyde | 0.47 g | C(CCC)=O | C4H8O
reactant | ethyl acetate hexane | C(C)(=O)OCC.CCCCCC
solvent | THF | 30 ml | C1CCOC1 | C4H8O
solvent | diethyl ether | C(C)OCC | C4H10O
solvent | THF | 10 ml | C1CCOC1 | C4H8O
solvent | ethanol | C(C)O | C2H6O
solvent | THF | 30 ml | C1CCOC1 | C4H8O
solvent | water | 12 ml | O | H2O
solvent | acetic acid | 2.4 ml | C(C)(=O)O | C2H4O2
product | tert-butyl (2S,3R)-tert-butoxycarbonylamino-3-hydroxyhexanoate | 1.03 g | C(C)(C)(C)OC(=O)N[C@H](C(=O)OC(C)(C)C)[C@@H](CCC)O | C15H29NO5
